US06759414B2
B. 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-hydroxymethylbenzamide
To a stirring slurry of 2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-5-carboxy-N-(5-chloropyridin-2-yl)benzamide (0.25 g, 0.49 mmol) in tetrahydrofuran (5 mL) under argon was added N-methylmorpholine (0.055 mL, 0.5 mmol) followed by ethyl chloroformate (0.05 mL, 0.5 mmol). After 20 min. the reaction slurry was cooled in an ice bath and treated with sodium borohydride (61 mg, 1.6 mmol) followed by dropwise addition of methanol (10 mL). After 30 min the resulting reaction solution was treated with saturated aqueous ammonium chloride. The mixture was partitioned between dichloromethane and saturated aqueous ammonium chloride. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by chromatography over silica gel, eluting with 20-50% ethyl acetate in hexane and then 5% methanol in ethyl acetate, to give 0.15 g (63%) of a white solid.

reactant | 2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-5-carboxy-N-(5-chloropyridin-2-yl)benzamide | 0.49 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)C(=O)O | C24H27ClN4O6
reactant | N-methylmorpholine | 0.5 mmol, 0.055 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.5 mmol, 0.05 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 1.6 mmol, 61 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-hydroxymethylbenzamide | 0.15 g, 63% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)CO | C24H29ClN4O5
